US05200116
Crude 1-acetoxy-3-methylnaphthalene (84 g, 0.42 mole) was boiled with 10% ethanolic potassium hydroxide (300 cm3) for 3 hours. Ethanol was distilled off and the residue dissolved in water and extracted with toluene to remove neutral products. The aqueous alkaline solution was carefully acidified with dilute hydrochloric acid and the liberated 3-methyl-l-naphthol extracted with ether. The ether extract was washed with water, dried and filtered. Ether solvent was removed leaving 3-methyl-l-naphthol (18.4 g) as clear colorless crystals.

reactant | 1-acetoxy-3-methylnaphthalene | 0.42 mole, 84 g | C(C)(=O)OC1=CC(=CC2=CC=CC=C12)C | C13H12O2
solvent | potassium hydroxide | 300 cm3 | [OH-].[K+]
product | 3-methyl-l-naphthol | 18.4 g | CC=1C=C(C2=CC=CC=C2C1)O | C11H10O
